2172-04-01 06:22:00 Physician Resident Progress Note
Chief Complaint: anaphylaxis
   24 Hour Events:
   Discussed with bloodbank - felt c/w anaphylactic transfusion reaction.
   Should get only washed products
   No evidence of IgA deficiency to explain reaction
   Continued with heavy menstrual bleeding
   This morning, denies any SOB, nausea, or bleeding. Handling secretions
   without problem.
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-1**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.7
   HR: 85 (73 - 129) bpm
   BP: 95/57(65) {95/57(65) - 117/82(90)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,047 mL
                                                                     63 mL
   PO:
             TF:
   IVF:
                                                                  1,047 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    900 mL
   Urine:
                                                                    200 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,847 mL
                                                                   -837 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.44/30/336/23/-1
   Physical Examination
   General Appears comfortable
   HEENT Purpuric lesions on buccal mucosa. Still with some lip swelling,
   but view of posterior oropharynx is much improved.
   Neck No stridor
   Pulm Lungs clear no wheezing or rales
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds
   Extrem Warm no edema palpable pulses. Knees without erythema, swelling,
   increased warmth, or tenderness
   Derm +petechiae
   Labs / Radiology
   6 K/uL
   11.1 g/dL
   143 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   32.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2172-3-31**]  08:04 PM
                             [**2172-4-1**]  04:36 AM
   WBC
   7.9
   8.9
   Hct
   36.2
   32.4
   Plt
   12
   6
   Cr
   0.7
   Glucose
   143
   Other labs: PT / PTT / INR:13.1/23.5/1.1, Lactic Acid:3.8 mmol/L
   Assessment and Plan
   Ms. [**Known lastname 2439**] is a 45F with sarcoid-variant SLE who presents with
   epistaxis and menorrhagia in the context of thrombocytopenia.
   .
   * Anaphylaxis
   Bloodbank in agreement that likely [**1-21**] transfusion. Patient now
   stabilized following epinephrine, H2 antagonist, steroids. Protecting
   airway without stridor or respiratory distress. No evidence of IgA
   deficiency.
   - discuss transfusion plans with bloodbank, anticipate needing washed
   products
   - f/u tryptase
   - may continue PO antihistamines standing x 3 days (today d#2) and
   changes to PO steroid today
   - zofran/compazine prn nausea
   - telemetry
   - close airway monitoring, airway cart in room. anesthesia aware and in
   agreement with this plan.
   .
   * Thrombocytopenia
   Not bleeding currently , platelets at 6 this AM. Felt to be [**1-21**] ITP/SLE
   by heme. No evidence of microangiopathic hemolytic anemia on heme
   review of peripheral smear (eg TTP, HUS, DIC), no blasts or other
   abnormal WBCs worrisome for malignant infiltration.
   - talk to heme/blood bank regarding whether needs another plt
   transfusion with washed platelets here in ICU
   - can try amicar per blood bank recs
   - will hold on further plt transfusion for now given anaphylactic
   reaction. transfusion goal will be >10k
   - change to PO prednisone 1mg/kg daily per heme/onc recs
   - hold all antiplatelets
   - trend CBC daily
   - HIV consent in the AM when stabilized
   - maintain active t+s, piv x2, following cbc [**Hospital1 **]
   - no focal deficits on neuro exam therefore will HOLD on CT head at
   this time, but low threshold to check this
   .
   * Acute blood loss anemia
   Hct stable from [**2163**], though more recent CBC unavailable at this time.
   No evidence of hemolytic process on hematology review of peripheral
   smear. Ferritin of 13 c/w iron deficiency.
   - follow cbc daily Q6, transfuse Hct >25 or active bleeding
   - iron supplements
   .
   * Epistaxis
   No significant bleeding here.
   - consider ENT evaluation and packing if rebleeds
   .
   * Elevated lactate
   Likely due to hypoperfusing state in setting of anaphylaxis. Unlikely
   sepsis.
   Improved on repeat last night.
   .
   * SLE
   Apparently not on any specific SLE treatment at this time
   - Obtain further records from outpt providers, needs rheum followup
   .
   * Knee pain
   Could be SLE related. However, joints to not appear inflamed at this
   time. In setting of thrombocytopenia, consider also hemarthrosis,
   though think this is less likely.
   - Follow exam
   - [**Month (only) 8**] use acetaminophen if needed for pains
   ICU Care
   Nutrition: PO trial to regular diet this AM
   Glycemic Control:  ISS with steroids
   Lines:
   20 Gauge - [**2172-3-31**] 07:00 PM
   Prophylaxis:
   DVT:  mechanical ppx
   Stress ulcer: h2 blocker
   VAP:  n/a
   Communication:  with husband
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for plt transfusion, if stable then can callout to
   floor

2172-04-01 10:26:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo F with lupus and dx of ITP previously on prednisone who initially
   presented to ED with 3 days epistaxis and menstrual bleeding as well as
   purpuric sores in mouth.  Her platelet count was 6.  Hematology saw her
   the emergency department with now evidence of hemolysis.  It was felt
   that she had ITP and steroids were recommended.  She was admitted to
   medicine floor, and was receiving platelets when she developed facial
   swelling, nausea, transient unresponsiveness.  She improved with
   epipen, famotidine, solumedrol and transferred to ICU
   24 Hour Events:
   Continued on solumedrol 80 q 8, famotidine, benadryl.  She had no
   further respiratory distress and did well overnight.  Currently feels
   well this morning and has had no further bleeding.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2172-4-1**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-1**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.7
   HR: 74 (73 - 129) bpm
   BP: 100/58(69) {95/57(65) - 117/82(90)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,047 mL
                                                                    148 mL
   PO:
             TF:
   IVF:
                                                                  1,047 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    900 mL
   Urine:
                                                                    200 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,847 mL
                                                                   -752 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.44/30/336/23/-1
   Physical Examination
   General Appearance: Well nourished, pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   6 K/uL
   143 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   32.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2172-3-31**]  08:04 PM
                             [**2172-4-1**]  04:36 AM
   WBC
   7.9
   8.9
   Hct
   36.2
   32.4
   Plt
   12
   6
   Cr
   0.7
   Glucose
   143
   Other labs: PT / PTT / INR:13.1/23.5/1.1, Lactic Acid:3.8 mmol/L
   Assessment and Plan
   45 yo F ITP oresents with mucosal bleeding, now HoTN after platelets
   1. Anaphylaxis :
    - cont oral prednisone, consider IV steroids
    - cont  IV antihistamine
    - f/u transfusion medicine service for recommendations
   2. Thrombocytopenia
 ITP?:
     - continues to have some uterine oozing most likely  secondary to her
   menstrual period and thrombocytopenia
    - Follow up plt and Htc q 8 hrs.
    - will touch base with hematology regarding need to maintain platelets
   > 10, platelet transfusion , IV HDMP +/- IVIG
    - If acute bleeding and unable to administer platelets then consider
   Amicar
    - active type and screen
   3. Nose bleed: no further bleeding, consider packing if rebleeds
   4. ? lupus - will need to establish outpatient follow-up with
   rheumatology
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-04-02 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - overnight neuro exam unchanged
   - ? bleeding with BM
   - d/w heme --> plan was to only transfuse blood/plts for active bleed
   or acute changes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2172-4-1**] 06:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-2**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 80 (63 - 114) bpm
   BP: 123/68(81) {99/24(58) - 156/79(106)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,110 mL
                                                                     73 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                  1,310 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    400 mL
   Urine:
                                                                  2,800 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -690 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6 K/uL
   7.8 g/dL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   111 mEq/L
   142 mEq/L
   23.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2172-3-31**]  08:04 PM
                             [**2172-4-1**]  04:36 AM
                             [**2172-4-1**]  02:32 PM
                             [**2172-4-1**]  10:38 PM
                             [**2172-4-2**]  05:59 AM
   WBC
   7.9
   8.9
   9.5
   10.7
   9.3
   Hct
   36.2
   32.4
   25.1
   24.4
   23.4
   Plt
   12
   6
   12
   6
   Cr
   0.7
   0.8
   Glucose
   143
   100
   Other labs: PT / PTT / INR:11.8/23.2/1.0, Lactic Acid:3.8 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 2439**] is a 45F with sarcoid-variant SLE who presents with
   epistaxis and menorrhagia in the context of thrombocytopenia.
   .
   * Anaphylaxis
   Bloodbank in agreement that likely [**1-21**] transfusion. Patient now
   stabilized following epinephrine, H2 antagonist, steroids. Protecting
   airway without stridor or respiratory distress. No evidence of IgA
   deficiency.
   - discuss transfusion plans with bloodbank, anticipate needing washed
   products
   - f/u tryptase
   - may continue PO antihistamines standing x 3 days (today d#2) and
   changes to PO steroid today
   - zofran/compazine prn nausea
   - telemetry
   - close airway monitoring, airway cart in room. anesthesia aware and in
   agreement with this plan.
   .
   * Thrombocytopenia
   Not bleeding currently , platelets at 6 this AM. Felt to be [**1-21**] ITP/SLE
   by heme. No evidence of microangiopathic hemolytic anemia on heme
   review of peripheral smear (eg TTP, HUS, DIC), no blasts or other
   abnormal WBCs worrisome for malignant infiltration.
   - talk to heme/blood bank regarding whether needs another plt
   transfusion with washed platelets here in ICU
   - can try amicar per blood bank recs
   - will hold on further plt transfusion for now given anaphylactic
   reaction. transfusion goal will be >10k
   - change to PO prednisone 1mg/kg daily per heme/onc recs
   - hold all antiplatelets
   - trend CBC daily
   - HIV consent in the AM when stabilized
   - maintain active t+s, piv x2, following cbc [**Hospital1 **]
   - no focal deficits on neuro exam therefore will HOLD on CT head at
   this time, but low threshold to check this
   .
   * Acute blood loss anemia
   Hct stable from [**2163**], though more recent CBC unavailable at this time.
   No evidence of hemolytic process on hematology review of peripheral
   smear. Ferritin of 13 c/w iron deficiency.
   - follow cbc daily Q6, transfuse Hct >25 or active bleeding
   - iron supplements
   .
   * Epistaxis
   No significant bleeding here.
   - consider ENT evaluation and packing if rebleeds
   .
   * SLE
   Apparently not on any specific SLE treatment at this time
   - Obtain further records from outpt providers, needs rheum followup
   .
   * Knee pain
   Could be SLE related. However, joints to not appear inflamed at this
   time. In setting of thrombocytopenia, consider also hemarthrosis,
   though think this is less likely.
   - Follow exam
   - [**Month (only) 8**] use acetaminophen if needed for pains
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-31**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-04-03 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient's platelets decreased to <5, spoke to both hematology and
   blood bank and decision to transfuse 1 bag of washed platelets
   monitoring closely for anaphylactic reaction
   - One bag of washed platelets ran in this AM at 5am without any
   reactions
   - Continued heavy menstrual bleeding, occasional clots from nose
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-4-2**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-3**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 78 (59 - 102) bpm
   BP: 122/69(81) {101/54(66) - 151/108(117)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,160 mL
                                                                    133 mL
   PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                     80 mL
   Blood products:
   133 mL
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    360 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: Alert, oriented African American woman, in NAD
   HEENT: PERRL, no angioedema
   Lungs: CTA bilaterally
   CV: No murmurs
   Abd: Soft, nontender
   Ext: WWP, petechiae on limbs improving
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   5 K/uL
   7.9 g/dL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   111 mEq/L
   142 mEq/L
   23.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2172-3-31**]  08:04 PM
                             [**2172-4-1**]  04:36 AM
                             [**2172-4-1**]  02:32 PM
                             [**2172-4-1**]  10:38 PM
                             [**2172-4-2**]  05:59 AM
                             [**2172-4-2**]  12:51 PM
                             [**2172-4-2**]  10:32 PM
   WBC
   7.9
   8.9
   9.5
   10.7
   9.3
   8.1
   8.5
   Hct
   36.2
   32.4
   25.1
   24.4
   23.4
   24.4
   23.5
   Plt
   12
   6
   12
   6
   5
   Cr
   0.7
   0.8
   Glucose
   143
   100
   Other labs: PT / PTT / INR:11.6/22.9/1.0, Lactic Acid:3.8 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   HIV negative
   Lupus anticoagulant pending
   Assessment and Plan
 SHOCK, ANAPHYLACTIC (ANAPHYLAXIS)
   Ms. [**Known lastname 2439**] is a 45F with sarcoid-variant SLE admitted to MICU with
   anaphylaxis in setting of platelet transfusion on floor for
   thrombocytopenia from ITP observed with no anaphylactic react ion to
   transfusion to washed platelets.
   .
   * Anaphylaxis: Initial episode in setting of platelet transfusion. She
   tolerated one unit of washed platelets this AM without any evidence of
   anaphylaxis.
   - heme and bloodbank following, appreciate recs
   - f/u tryptase
   - may continue PO antihistamines standing x 3 days (today d#3)
   - zofran/compazine prn nausea
   - telemetry
   - close airway monitoring, airway cart in room. anesthesia aware and in
   agreement with this plan.
   .
   * Thrombocytopenia: Platelets had been ranging from <5
 6 this over
   course in ICU with continued metorrhagia. With concern for spontaneous
   intracranial bleed, transfused one unit of washed platelets after
   consultation with heme fellow on call and blood bank fellow overnight.
   Plt increased to 24 after transfusion. However, with ITP, this bump
   will likely be transient but may help decrease active bleeding,
   decrease risk
   - giving one dose of amicar per blood bank recs
   - continue PO prednisone 1mg/kg daily
   - trend platelets, try to keep>10, in setting of any active bleeding
   - maintain active t+s, piv x2, following cbc [**Hospital1 **]
   - maintain on telemetry while still bleeding
   .
   * Acute blood loss anemia (Epistaxis / vaginal/ BM): Hct has remained
   stable 23-24.
   - follow cbc [**Hospital1 **], transfuse Hct >25 or active bleeding
   - continue iron supplements
   .
   * SLE
   Apparently not on any specific SLE treatment at this time
   - f/u lupus anticoagulant
   - Obtain further records from outpt providers, needs rheum followup and
   work up
   .
   * Knee pain
   Could be SLE related. However, joints to not appear inflamed at this
   time. In setting of thrombocytopenia, consider also hemarthrosis,
   though think this is less likely.
   - Follow exam
   - [**Month (only) 8**] use acetaminophen if needed for knee pain
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-31**] 07:00 PM
   Prophylaxis:
   DVT: Ambulation
 check orthostatics
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition: Stable for call out to medical floor

2172-04-03 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo F remoted history discoid lupus, presents with mucosal bleeding,
   found to have paltelets < 5, likley ITP.  Transferredt o ICU with
   anaphylactic reaction after recieving platelets
   24 Hour Events:
   Platelets < 5, received 1 u washed platelets this morning and tolerated
   well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-4-2**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-4-3**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 75 (59 - 102) bpm
   BP: 121/79(89) {101/54(66) - 151/108(117)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,160 mL
                                                                    133 mL
   PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                     80 mL
   Blood products:
   133 mL
   Total out:
                                                                    800 mL
                                                                    400 mL
   Urine:
                                                                    800 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    360 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   24 K/uL
   84 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.2 mEq/L
   16 mg/dL
   108 mEq/L
   141 mEq/L
   23.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2172-3-31**]  08:04 PM
                             [**2172-4-1**]  04:36 AM
                             [**2172-4-1**]  02:32 PM
                             [**2172-4-1**]  10:38 PM
                             [**2172-4-2**]  05:59 AM
                             [**2172-4-2**]  12:51 PM
                             [**2172-4-2**]  10:32 PM
                             [**2172-4-3**]  06:26 AM
   WBC
   7.9
   8.9
   9.5
   10.7
   9.3
   8.1
   8.5
   7.3
   Hct
   36.2
   32.4
   25.1
   24.4
   23.4
   24.4
   23.5
   23.3
   Plt
   12
   6
   12
   6
   5
   24
   Cr
   0.7
   0.8
   0.8
   Glucose
   143
   100
   84
   Other labs: PT / PTT / INR:11.7/24.0/1.0, Lactic Acid:3.8 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   45 yo F remoted history discoid lupus, presents with mucosal bleeding,
   found to have paltelets < 5, likley ITP.  Transferredt o ICU with
   anaphylactic reaction after recieving platelets
   1. ITP: demonstrated appropriate platelet increase in setting of
   transfusion this morning, which she tolerated well; also received
   amicar overnight
    - cont trend platelets, will t/f > 10, s/sx bleed
    - [**Hospital1 **] CBC
    - cont prednison
    - appreciate hematology and blood bank input
   2. Anaphylaxis:
    - will d/c antihistamine today
    - continueing prednisone, zofran as needed
   3. ? SLE: f/u SLE, will need to follow [**Doctor First Name **], Anti-ds DNA, APLAS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2172-3-31**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill